US06890705B2
(b) Preparation of Silver 5-Methylbenzotriazole Emulsion
The mixture thus obtained was stirred for 5 minutes, and then mixed with a solution of 3.8 g of 5-methylbenzotriazole and 1.2 g of sodium hydroxide in 150 ml of water and a solution of 5 g of silver nitrate in 150 ml of water simultaneously over 6 minutes, to prepare an emulsion.

reactant | 5-methylbenzotriazole | 3.8 g | CC1=CC2=C(NN=N2)C=C1 | C7H7N3
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | silver nitrate | 5 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 150 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | Silver 5-Methylbenzotriazole | CC1=CC2=C(NN=N2)C=C1.[Ag] | InChI=1S/C7H7N3.Ag/c1-5-2-3-6-7(4-5)9-10-8-6;/h2-4H,1H3,(H,8,9,10);
